US05554607
1-Ethyl-3-(4-fluorophenyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 16 using 7.65 g of 4-fluorophenyl-isothiocyanate, 9.32 g of N-ethyl glycine, 10 g of triethyl amine, and 250 mL of chloroform. Purification was achieved through crystallization from ethanol. The title compound (6.6 g) was obtained as a pink solid, m.p. 149°-151° C. Anal. Calcd. for. C11H11F N2O S: C, 55.45; H, 4.65; N, 11.76. Found: C, 55.31; H, 4.51; N, 10.82. Mass spectrum (EI, M.+) m/z 238.

reactant | 4-fluorophenyl-isothiocyanate | 7.65 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | N-ethyl glycine | 9.32 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 10 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-3-(4-fluorophenyl)-2-thioxo-imidazolidin-4-one | 6.6 g | C(C)N1C(N(C(C1)=O)C1=CC=C(C=C1)F)=S | C11H11FN2OS
